US04076709
20 G. of 3-chlorosulfonylthiophene-2-carboxylic acid methyl ester are dissolved in absolute chloroform, whereupon 21 g. of sarcosine ethyl ester are added dropwise during 10 minutes. In so doing, the mixture warms up to 500° C. After 20 minutes, the mixture is cooled, shaken once each time with water, 0.5-N hydrochloric acid and a sodium bicarbonate solution, dried and evaporated. The remaining oil is brought to crystallization with ethanol. There is obtained 3-(N-carbethoxymethyl-N-methyl-sulfamoyl)-thiophene-2-carboxylic acid methyl ester of melting point 84°-85° C.

reactant | 3-chlorosulfonylthiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC=CC1S(=O)(=O)Cl | C6H5ClO4S2
reactant | sarcosine ethyl ester | C(C)OC(CNC)=O | C5H11NO2
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(N-carbethoxymethyl-N-methyl-sulfamoyl)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC=CC1S(N(C)CC(=O)OCC)(=O)=O | C11H15NO6S2
